Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Remicade
 
Attending: ___
 
Chief Complaint:
blood stool, mucus and abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ w ___ disease who is referred here from GI
w/ increasing pain, bloody stools and weakness. Symptoms for
months but have worsened significantly this past week. New lower
abdominal  cramping with nausea which is new. Has been on
tacrolimus and prednisone. Poor PO intake and when she does eat,
does not feel like she is absorbing due to persistent fatigue.
During the past few months she has had twenty bowel movements 
per
day. What has really changed is not the frequency but the pain,
the amount of blood and the mucus.  No increase in the chronic
joint pain.  " I feel like I am eating and nothing seems to be
sticking. I am not getting any energy  from any food." No 
emesis.
No fevers or chills. No foreign travel. No outdoor exposures. No
raw seafood. 
In ER: (Triage Vitals:7 |97.9 |109 |120/70 |16 |98% RA  ) 
Meds Given:  Methylprednisone 20 mg IV
Fluids given: NS x 2 L 
Radiology Studies:None
consults called: GI via the ED dashboard
 
Past Medical History:
-___ DISEASE                                                 

INFLAMMATORY BOWEL DISEASE                                      
-___ disease (dx age ___--, BCH, ileum-colon-perianal)
*azathioprine, failed
*multiple steroid courses
*infliximab - ___, mononucleosis and pustular psoriasis
*stopped infliximab in favor of methotrexate, psoriasis improved
___ admit ___ with perianal sinus vs fistula,
sigmoid/rectal thickening ->tx abx, pentasa 1.5g bid
___ started vedolizumab until ___ (failed to
induce remission, did not improve diarrhea)
___ started ustekinumab 90mg q8w + prednisone 30mg
daily. Until ___ when developed rectal stricture,
aphtous ulcerations throughout colon, sigmoid longitudinal
ulcerations.  

PSORIASIS                                                       
ANAL FISTULA                                                    
VITAMIN D DEFICIENCY   
WRIST SURGERY ___ (fracture, pin in scaphoid bone - right 
 
Social History:
___
Family History:
Sister with ___ disease
Sister died of brain cancer at age ___
Brother had ___ lymphoma
 
Physical Exam:
Admission physical exam

T 98.3 PO 105 / 62 88 18 96 RA 
CONS: Cachetic and slightly ill appearing, NAD, comfortable 
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  No spinal tenderness
GU:  No CVAT b/l
MSK:no c/c/e 2+pulses  
SKIN: Healing wound on RLE where wine glass fell on her leg  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD: No cervical LAD

Discharge physical exam
97.9 PO 105 / 66 90 16 95 RA 
Gen - no distress, sitting up in the chair, appears well
HEENT - nc/at, moist mucous membranes, no OP lesion 
Eyes - anicteric, perrl
Neck - supple, no lymphadenopathy 
___ - RRR, s1/2, no murmurs
Pulm - CTA b/l, no w/r/r
GI - soft, NT, ND, +BS, no rebound/guarding/rigidity
Ext - no edema or cyanosis 
Skin - warm and dry
Psych - calm, cooperative 
Neuro - non focal, aaox3 

 
Pertinent Results:
WBC 15.8 <- 10.5 <--- 15.2
Vit D - 29 (slightly low) 
CRP 12.7 <--- 86.1 
TMPT level pending
Zinc level pending
O&P pending
C diff negative 
 
Brief Hospital Course:
___ with ileocolonic and perianal ___ disease s/p multiple 
treatment attempts currently on prednisolone 30mg daily and 
tacrolimus 3mg bid presenting with subacute on chronic worsening 
diarrhea with blood and mucus as well as crampy abdominal pain,
concerning for ___ flare. 

___ disease with flare
#Hematochezia
#Abdominal pain
Admitted with above. Was seen by gastroenterology recommending 
IV methylprednisone, which ultimately led to improvement in 
flare. Diarrhea tapered off and she was ultimately transitioned 
to PO Prednisolone. Tacrolimus was discontinued given not likely 
making a clinical improvement. TMPT level sent off and will be 
followed up as an outpatient to help determine if ___ is a 
viable therapeutic option. 
-Prednisolone 15mg BID 
-D/c Tacrolimus 
-Start multivitamin, Vitamin D3 (1000 units daily)
-f/u Zinc level and TMPT level as an outpatient 
-follow up with gastroenterology 

#Leukocytosis
-Had originally trended down and now back up today, attributed 
to steroids. Can have followed as an outpatient. 

#Diet - regular, per nutrition recommend low fiber 
#Code status - presumed full
#Dispo - discharge home today given clinical improvement and now 
transitioned to PO steroids

Time spent: 45 minutes 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. prednisoLONE 15 mg/5 mL oral DAILY 
2. Tacrolimus 3 mg PO Q12H 
3. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
4. biotin 1 mg oral DAILY 
5. Ibuprofen 400 mg PO BID:PRN Pain - Severe 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  prednisoLONE 15 mg/5 mL oral BID 
RX *prednisolone 15 mg/5 mL 15 mg by mouth twice a day 
Refills:*0 
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  biotin 1 mg oral DAILY  
6.  Ibuprofen 400 mg PO BID:PRN Pain - Severe  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ disease with flare 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to the hospital with a flare of your ___ 
disease. You have improved with some IV steroids and will now be 
transitioned back to Prednisolone. You should stop taking your 
Tacrolimus. At the time of discharge you have some bloodwork 
that is pending, one test is to help decide if you are a 
candidate to start ___. You can follow up with your 
gastroenterologist to determine if this would be an appropriate 
test. 

You should also start a multivitamin and vitamin D3 (1000 
units), these are available over the counter. Your zinc level is 
pending at the time of discharge and you can also discuss the 
results with Dr ___ low she can start you on treatment. 

It has been a pleasure to care for you in the hospital. We wish 
you the best!

Sincerely, 
Your care team at ___
 
Followup Instructions:
___